.title KiCad schematic
.save all
.probe alli
.probe p(C12)
.probe p(C2)
.probe p(C1)
.probe p(C6)
.probe p(C5)
.probe p(C4)
.probe p(C3)
.probe p(R13)
.probe p(R11)
.probe p(R10)
.probe p(R9)
.probe p(R14)
.probe p(R1)
.probe p(V1)
.probe p(C11)
.probe p(C7)
.probe p(R12)
.probe p(C9)
.probe p(R5)
.probe p(R2)
.probe p(R3)
.probe p(C8)
.probe p(R4)
.probe p(C10)
.probe p(R6)
.probe p(R7)
.probe p(R8)
.probe p(R15)
.probe p(R16)
U2 __U2
C12 /EQ_OUT Net-_C12-Pad1_ 4.7u
C2 GND +12V 100n
C1 -12V GND 100n
C6 -12V +12V 47u
C5 +12V -12V 47u
C4 -12V GND 100n
C3 +12V GND 100n
U1 __U1
R13 -12V /MID_OUT 22kOhm
R11 /Trebel_FB Net-_U1D--_ 4.7kOhm
Trebel_POT3 __Trebel_POT3
R10 /Trebel_IN GND 10kOhm
R9 /Trebel_IN GND 15kOhm
R14 -12V /Trebel_OUT 22kOhm
R1 GND /VIN 100kOhm
V1 Net-_C7-Pad1_ GND DC 0 SIN( 0 1 1k 0 0 0 ) AC 1  
C11 /Trebel_IN /BUFF_OUT 1n
J1 __J1
C7 /VIN Net-_C7-Pad1_ 4.7u
BASS_POT1 __BASS_POT1
MID_POT2 __MID_POT2
R12 -12V /BASS_OUT 22kOhm
C9 /MID_HP /BUFF_OUT 10n
R5 /MID_HP GND 10kOhm
R2 /BASS_IN /BUFF_OUT 15kOhm
R3 GND /BASS_IN 10kOhm
C8 GND /BASS_IN 0.1u
R4 /BASS_FB Net-_U1B--_ 4.7kOhm
C10 GND /MID_BP 10n
R6 /MID_BP /MID_HP 10kOhm
R7 /MID_BP GND 10kOhm
R8 /MID_FB Net-_U1C--_ 4.7kOhm
R15 Net-_C12-Pad1_ -12V 22kOhm
R16 /EQ_OUT GND 100kOhm
J2 __J2
.end
